US05510538
N-Methylephedrine (200 mg; 1.12 mmol) was added to a solution of o-iodoxybenzoic acid I (1.56 g, 5.59 mmol) and trifluoroacetic acid (0.13 ml) in DMSO (12 ml). After 8 hours the solution was diluted with NaHCO3 (2.5%, 30 ml) and extracted with ethyl acetate (3×10 ml). The combined organic layers were washed with water (2×5 ml), dried over sodium sulfate and evaporated to dryness under vacuum to give 180 mg (90%) of 2-dimethylamino-1-phenyl-propan-1-one identical to the sample obtained in Example 31.

reactant | N-Methylephedrine | 1.12 mmol, 200 mg | CC(C(C1=CC=CC=C1)O)N(C)C | C11H17NO
reactant | o-iodoxybenzoic acid | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | trifluoroacetic acid | 0.13 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
solvent | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
product | 2-dimethylamino-1-phenyl-propan-1-one | 180 mg, 90% | CN(C(C(=O)C1=CC=CC=C1)C)C | C11H15NO
